US06211215B1
In substantially the same manner as in Reference Example 25, 3-(4-benzyloxy-3-methoxyphenyl)-2-propen-1-ol was allowed to react with 1,2,4-triazole to give 1-[3-(4-benzyloxy-3-methoxyphenyl)-2-propenyl]-1,2,4-triazole. The yield was 34%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 70-72° C.

reactant | 3-(4-benzyloxy-3-methoxyphenyl)-2-propen-1-ol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=CCO)OC | C17H18O3
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 1-[3-(4-benzyloxy-3-methoxyphenyl)-2-propenyl]-1,2,4-triazole | yield was 34% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=CCN1N=CN=C1)OC | C19H19N3O2
